US07393868B2
Heat at 80° C. a mixture of propane-2-sulfonic acid (4′-bromo-biphenyl-2-yl)-amide (4.0 g, 11.22 mmol), bis(pinacolato)diboron (3.22 g, 12.34 mmol), [1,1′-bis(diphenylphos-phino)ferrocene]-dichloropalladium(II) complex with dichloromethane (1:1) (0.276 g, 0.337 mmol) and potassium acetate (3.32 g, 33.87 mmol) in dry dimethylsulfoxide (25 mL). After 16 h add water and extract with EtOAc. Combine organic layers, dry over sodium sulfate and evaporate under reduce pressure. Dissolve the residue in dichlorometh-ane and wash with a solution of 0.1N HCl. Combine the organic layers, dry over sodium sulfate, filter and concentrate under reduced pressure. Purify the residue by flash chromatography (Silica gel-EtOAc/hexane 1:3) to provide propane-2-sulfonic acid [4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-2-yl)-amide (4.07 g, 90%). MS (m/e): 424 (M+23); 400 (M−1).

reactant | propane-2-sulfonic acid (4′-bromo-biphenyl-2-yl)-amide | 11.22 mmol, 4.0 g | BrC1=CC=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)C(C)C | C15H16BrNO2S
reactant | bis(pinacolato)diboron | 12.34 mmol, 3.22 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.337 mmol, 0.276 g | ClCCl | CH2Cl2
reactant | potassium acetate | 33.87 mmol, 3.32 g | C(C)(=O)[O-].[K+]
solvent | dimethylsulfoxide | 25 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | propane-2-sulfonic acid [4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-2-yl)-amide | 4.07 g, 90% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)C(C)C)C | C21H28BNO4S
